US06384051B1
6-Amino-4-(3-chloro-4-fluoro-phenylamino)-7-ethoxy-quinoline-3-carbonitrile
4-(3-Chloro-4-fluoro-phenylamino)-7-ethoxy-6-nitro-quinoline-3-carbonitrile hydrochloride (38.6 g 91.2 mmol) was mixed with 35.7 g (638 mmol) of iron powder. A solution of 43.9 g (820 mmol) of ammonium chloride in 280 ml of water was added followed by 985 ml of methanol. The mixture was reflux with mechanical stirring under nitrogen for 4 hr at which time TLC indicated complete reduction. The reaction mixture was filtered hot and solids were washed with 500 ml of boiling methanol. After the combined filtrate was evaporated, the residue was partitioned between 1.5L of warm ethyl acetate and 700 ml of saturated sodium bicarbonate solution. The organic layer was dried over magnesium sulfate, treated with Norite, filtered and evaporated to give a solid which was recrystallized from CHCl3-hexanes giving 29.0 g (89%) of 6-amino-4-(3-chloro-4-fluoro-phenylamino)-7-ethoxy-quinoline-3-carbonitrile as a light green solid.

reactant | 4-(3-Chloro-4-fluoro-phenylamino)-7-ethoxy-6-nitro-quinoline-3-carbonitrile hydrochloride | 91.2 mmol, 38.6 g | Cl.ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)[N+](=O)[O-])OCC)C#N
reactant | ammonium chloride | 820 mmol, 43.9 g | [Cl-].[NH4+]
reactant | methanol | 985 ml | CO | CH4O
solvent | water | 280 ml | O | H2O
catalyst | iron | 638 mmol, 35.7 g | [Fe] | Fe
product | 6-Amino-4-(3-chloro-4-fluoro-phenylamino)-7-ethoxy-quinoline-3-carbonitrile | NC=1C=C2C(=C(C=NC2=CC1OCC)C#N)NC1=CC(=C(C=C1)F)Cl | C18H14ClFN4O
